US06365753B1
Ethyl 3-(2-Chloro-4-fluoro-5-phthalimidophenyl)acrylate
In 20 ml of tetrahydofuran was dissolved 1.23 g of ethyl 2-chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate, and 0.69 g of 1,8-diazabicyclo[5.4.0]-7-undecene was slowly added thereto dropwise. After the addition, the stirring was continued at room temperature for 1.5 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform) to give 0.78 g of the title compound (No. 17 of Table 2).

reactant | ethyl 2-chloro-3-(2-chloro-4-fluoro-5-phthalimidophenyl)propionate | 1.23 g | ClC(C(=O)OCC)CC1=C(C=C(C(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C19H14Cl2FNO4
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.69 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Water | O | H2O
solvent | tetrahydofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 3-(2-Chloro-4-fluoro-5-phthalimidophenyl)acrylate | 0.78 g | ClC1=C(C=C(C(=C1)F)N1C(C=2C(C1=O)=CC=CC2)=O)C=CC(=O)OCC | C19H13ClFNO4
